US08497265B2
Step 3. 2-(4-(3-(Piperidin-4-yl)Pyridin-2-yloxy)Piperidin-1-yl)Quinoline
Trifluoroacetic acid (0.272 mL, 3.53 mmol) was added to a solution of tert-butyl 4-(3-(1-(quinolin-2-yl)piperidin-4-yloxy)pyrazin-2-yl)piperidine-1-carboxylate (1726 mg, 3.53 mmol) in DCM (2 mL) and stirred at RT until the starting material was completely consumed. The mixture was then diluted with ethyl acetate and neutralized with saturated aqueous sodium bicarbonate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organics were washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated. The brown solid was triturated with acetone and dried to give the title compound as a white solid (370 mg, 27% yield). [M+1] 390.2. IC50 (uM) 0.05444. 1H NMR (CDCl3, 400 MHz) δ (ppm): 1.53-1.69 (m, 1H) 1.86-2.00 (m, 2H) 2.12-2.34 (m, 6H) 3.03-3.14 (m, 2H) 3.23-3.32 (m, 1H) 3.53-3.71 (m, 4H) 4.13-4.22 (m, 2H) 5.35-5.43 (m, 1H) 7.06 (d, J=9.19 Hz, 1H) 7.20-7.26 (m, 1H) 7.52-7.59 (m, 1H) 7.62 (d, J=7.82 Hz, 1H) 7.67-7.82 (m, 1H) 7.89-7.95 (m, 1H) 7.97 (d, J=2.74 Hz, 1H) 8.06 (d, J=2.74 Hz, 1H)

reactant | Trifluoroacetic acid | 3.53 mmol, 0.272 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(3-(1-(quinolin-2-yl)piperidin-4-yloxy)pyrazin-2-yl)piperidine-1-carboxylate | 3.53 mmol, 1726 mg | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)OC=1C(=NC=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C28H35N5O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(3-(Piperidin-4-yl)Pyridin-2-yloxy)Piperidin-1-yl)Quinoline | 370 mg, 27% yield | N1CCC(CC1)C=1C(=NC=CC1)OC1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C24H28N4O
